US04223142
(a) 2-Butylamino-5-chloro-pyrido[2,3-d]pyridazine-3-carboxylic acid, ethyl ester
5.8 g of 2-butylamino-5-hydroxy-pyrido[2,3-d]pyridazine-3-carboxylic acid, ethyl ester (0.02 mol) are treated with 20 ml of phosphorous oxychloride for 5 days at room temperature with permanent stirring. The excess of phosphorous oxychloride in distilled off in vacuo and the remaining residue is extracted with 20 ml of hot ethyl acetate. 2-butylamino-5-chloro-pyrido[2,3-d]pyridazine-3-carboxylic acid, ethyl ester crystallizes on cooling. Yield 5.5 g (83%); m.p. 126.7° C. (ligroin).

reactant | 2-butylamino-5-hydroxy-pyrido[2,3-d]pyridazine-3-carboxylic acid, ethyl ester | 0.02 mol, 5.8 g | C(CCC)NC=1C(=CC=2C(=CN=NC2O)N1)C(=O)OCC | C14H18N4O3
reactant | phosphorous oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Butylamino-5-chloro-pyrido[2,3-d]pyridazine-3-carboxylic acid, ethyl ester | C(CCC)NC=1C(=CC=2C(=CN=NC2Cl)N1)C(=O)OCC | C14H17ClN4O2
